US08293768B2
Synthesis of 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 21, making variations as required to replace 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid with 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a white solid in 45% yield: mp 154-155° C. (ethyl acetate/hexane); 1H NMR (300 MHz, CDCl3) δ 8.58 (br s, 1H), 8.53-8.45 (m, 1H), 8.26 (s, 1H), 7.72-7.65 (m, 1H), 7.30-7.21 (m, 1H), 6.98-6.86 (m, 2H), 6.85-6.75 (m, 2H), 6.61 (t, J=5.8 Hz, 1H), 4.59 (d, J=5.8 Hz, 2H), 4.28-4.15 (m, 4H), 2.63 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.7, 157.6, 154.2, 153.4, 151.0, 149.3, 149.1, 135.8, 133.6, 131.0, 123.7, 121.6, 116.0, 115.9, 115.8, 65.5, 45.3, 41.6, 17.2; MS (ES+) m/z 455.3 (M+1).

reactant | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O3S
reactant | 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(OCCN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C15H13FN4O4S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 45% yield | FC1=CC=C(OCCN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)C=C1 | C21H19FN6O3S
